r_ladder_circuit - fault test
Vin in 0 DC 24
R1 in n1 10.000677
R2 n1 0 19.983979
R3 n1 n2 9.893602
R4 n2 0 19.928162
C5 n2 n3 8.87e-06
R6 n3 0 19.818981
.op
.control
run
print v(in) v(n1) v(n2) v(n3)
print @r1[i] @r2[i] @r3[i] @r4[i] @r6[i]
.endc
.end
